US06762321B2
8.01 g (31.2 mmol) of crude 2-(3-methoxy-4-benzyloxyphenyl)ethylamine, 3.78 g (37.4 mmol) of triethylamine and 80 ml of tetrahydrofuran were mixed and cooled to 0° C. and then (5,6,7,8-tetrahydronaphthalen-2-yl)acetyl chloride was added dropwise thereto. The mixture was stirred at 0° C. for 30 minutes and further at room temperature for 2 hours. Water was added to the reaction mixture, which was followed by extracted with ethyl acetate, washed with 5% hydrochloric acid and then saturated brine, dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was subjected to silica gel column chromatography (eluent, hexane:ethyl acetate=1:1) to give 8.3 g of N-[2-(4-benzyloxy-3-methoxyphenyl)ethyl]-2-(5,6,7,8-tetrahydronaphthalen-2-yl)acetamide.

reactant | 2-(3-methoxy-4-benzyloxyphenyl)ethylamine | 31.2 mmol, 8.01 g | COC=1C=C(C=CC1OCC1=CC=CC=C1)CCN | C16H19NO2
reactant | triethylamine | 37.4 mmol, 3.78 g | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
reactant | (5,6,7,8-tetrahydronaphthalen-2-yl)acetyl chloride | C1=C(C=CC=2CCCCC12)CC(=O)Cl | C12H13ClO
solvent | Water | O | H2O
product | N-[2-(4-benzyloxy-3-methoxyphenyl)ethyl]-2-(5,6,7,8-tetrahydronaphthalen-2-yl)acetamide | 8.3 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CCNC(CC1=CC=2CCCCC2C=C1)=O)OC | C28H31NO3
